US05767131
1,4-Dihydro-5-methoxycarbonyl-6-methyl-4-(4-nitrophenyl)-2-phenylpyridine-3-carboxylic acid.
A solution of 5.01 g of 2-cyanoethyl 3-phenyl-3-oxopropionate (23.1 mmol), 6.98 g of 4-nitrobenzaldehyde (46.2 mol), and 5.32 g of methyl 3-aminocrotonate (46.2 mol) in 100 mL of isopropanol were heated at reflux temperature for 2 days, cooled, and the solvent was removed in vacuo. The residue was dissolved in 50 mL of warm dioxane and 1.21 g of NaOH in 25 mL of water was added to the reaction mixture. The resulting maroon solution was stirred for 3 hrs. The solvent was removed in vacuo. The residue was partitioned between water (100 mL) and ethyl acetate (50 mL), separated, and washed with ethyl acetate (3×50 mL). The aqueous extract was acidified with concentrated HCl (pH 2-3), the precipitated solids were filtered, and washed with water (2×20 mL). The crude product was recrystallized from acetone-water mixture to give 5.02 g (55%) of yellow amorphous solid: mp 190°-191° C.; Anal. Calcd for C21H18N2 O4 : C, 63.96; H, 4.60; N, 7.10. Found: C, 63.86; H, 4.59; N, 7.04.

reactant | 2-cyanoethyl 3-phenyl-3-oxopropionate | 23.1 mmol, 5.01 g | C1(=CC=CC=C1)C(CC(=O)OCCC#N)=O | C12H11NO3
reactant | 4-nitrobenzaldehyde | 46.2 mol, 6.98 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | methyl 3-aminocrotonate | 46.2 mol, 5.32 g | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | isopropanol | 100 mL | C(C)(C)O | C3H8O
product | 1,4-Dihydro-5-methoxycarbonyl-6-methyl-4-(4-nitrophenyl)-2-phenylpyridine-3-carboxylic acid | 5.02 g, 55% | COC(=O)C=1C(C(=C(NC1C)C1=CC=CC=C1)C(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C21H18N2O6
